*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-151_freq port1 port2 PARAMS: Cpar=0.23pF Ind=0.16uH
X1 port1 port2 Model1A PARAMS:
+ R1=22
+ R2=0.036
+ C= {Cpar}
+ K1=0.000001
+ K2=0.026
+ K3= {Ind}
+ K4=0.0035
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=757.407044
.ends PFL2510-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-151_imp port1 port2 PARAMS: Cpar=0.196pF Ind=0.16uH
X1 port1 port2 Model1D PARAMS:
+ R1=22
+ R2=0.036
+ C= {Cpar}
+ K1=0.000001
+ K2=0.026
+ K3= {Ind}
+ K4=0.0035
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=757.407044
.ends PFL2510-151_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-221
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-221_freq port1 port2 PARAMS: Cpar=0.214pF Ind=0.22uH
X1 port1 port2 Model1A PARAMS:
+ R1=12.5
+ R2=0.047
+ C= {Cpar}
+ K1=0.000001
+ K2=0.039
+ K3= {Ind}
+ K4=0.00378
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1072.50525
.ends PFL2510-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-221
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-221_imp port1 port2 PARAMS: Cpar=0.19pF Ind=0.22uH
X1 port1 port2 Model1D PARAMS:
+ R1=12.5
+ R2=0.047
+ C= {Cpar}
+ K1=0.000001
+ K2=0.039
+ K3= {Ind}
+ K4=0.00378
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1072.50525
.ends PFL2510-221_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-681_freq port1 port2 PARAMS: Cpar=0.23pF Ind=0.76uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.06
+ C= {Cpar}
+ K1=0.0005
+ K2=0.15
+ K3= {Ind}
+ K4=0.016
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2802.43183
.ends PFL2510-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-681_imp port1 port2 PARAMS: Cpar=0.19pF Ind=0.76uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.06
+ C= {Cpar}
+ K1=0.0005
+ K2=0.15
+ K3= {Ind}
+ K4=0.016
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2802.43183
.ends PFL2510-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-102_freq port1 port2 PARAMS: Cpar=0.18pF Ind=1.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.072
+ C= {Cpar}
+ K1=0.000225
+ K2=0.23
+ K3= {Ind}
+ K4=0.035
+ K5=0.00000185
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4421.62274
.ends PFL2510-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-102_imp port1 port2 PARAMS: Cpar=0.143pF Ind=1.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.072
+ C= {Cpar}
+ K1=0.000225
+ K2=0.23
+ K3= {Ind}
+ K4=0.035
+ K5=0.00000185
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4421.62274
.ends PFL2510-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-222_freq port1 port2 PARAMS: Cpar=0.2pF Ind=2.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.195
+ C= {Cpar}
+ K1=0.0005
+ K2=0.46
+ K3= {Ind}
+ K4=0.06
+ K5=0.00000265
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7113.85562
.ends PFL2510-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-222_imp port1 port2 PARAMS: Cpar=0.168pF Ind=2.4uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.195
+ C= {Cpar}
+ K1=0.0005
+ K2=0.46
+ K3= {Ind}
+ K4=0.06
+ K5=0.00000265
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7113.85562
.ends PFL2510-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-332_freq port1 port2 PARAMS: Cpar=0.17pF Ind=3.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.49
+ C= {Cpar}
+ K1=0.0005
+ K2=0.7
+ K3= {Ind}
+ K4=0.085
+ K5=0.00000335
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9935.07412
.ends PFL2510-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-332_imp port1 port2 PARAMS: Cpar=0.144pF Ind=3.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.49
+ C= {Cpar}
+ K1=0.0005
+ K2=0.7
+ K3= {Ind}
+ K4=0.085
+ K5=0.00000335
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9935.07412
.ends PFL2510-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2510-472_freq port1 port2 PARAMS: Cpar=0.17pF Ind=4.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.76
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.08
+ K5=0.00000121
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14027.3234
.ends PFL2510-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2510-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2510-472_imp port1 port2 PARAMS: Cpar=0.155pF Ind=4.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.76
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.08
+ K5=0.00000121
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14027.3234
.ends PFL2510-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
