*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-681_freq port1 port2 PARAMS: Cpar=0.155pF Ind=0.76uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.064
+ C= {Cpar}
+ K1=0.0004
+ K2=0.11
+ K3= {Ind}
+ K4=0.015
+ K5=0.000011
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2394.61511
.ends PFL2512-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-681_imp port1 port2 PARAMS: Cpar=0.129pF Ind=0.76uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.064
+ C= {Cpar}
+ K1=0.0004
+ K2=0.11
+ K3= {Ind}
+ K4=0.015
+ K5=0.000011
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2394.61511
.ends PFL2512-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-102_freq port1 port2 PARAMS: Cpar=0.23pF Ind=1.05uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.08
+ C= {Cpar}
+ K1=0.000175
+ K2=0.2
+ K3= {Ind}
+ K4=0.03
+ K5=0.0005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3777.42786
.ends PFL2512-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-102_imp port1 port2 PARAMS: Cpar=0.151pF Ind=1.05uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.08
+ C= {Cpar}
+ K1=0.000175
+ K2=0.2
+ K3= {Ind}
+ K4=0.03
+ K5=0.0005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3777.42786
.ends PFL2512-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-152_freq port1 port2 PARAMS: Cpar=0.21pF Ind=1.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.16
+ C= {Cpar}
+ K1=0.0005
+ K2=0.43
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000195
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6940.2929
.ends PFL2512-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-152_imp port1 port2 PARAMS: Cpar=0.17pF Ind=1.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.16
+ C= {Cpar}
+ K1=0.0005
+ K2=0.43
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000195
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6940.2929
.ends PFL2512-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-222_freq port1 port2 PARAMS: Cpar=0.2pF Ind=2.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.24
+ C= {Cpar}
+ K1=0.00025
+ K2=0.5
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000054
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7573.53926
.ends PFL2512-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-222_imp port1 port2 PARAMS: Cpar=0.17pF Ind=2.4uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.24
+ C= {Cpar}
+ K1=0.00025
+ K2=0.5
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000054
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7573.53926
.ends PFL2512-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-332_freq port1 port2 PARAMS: Cpar=0.2pF Ind=3.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.48
+ C= {Cpar}
+ K1=0.0005
+ K2=0.7
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000068
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9600.64001
.ends PFL2512-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-332_imp port1 port2 PARAMS: Cpar=0.172pF Ind=3.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.48
+ C= {Cpar}
+ K1=0.0005
+ K2=0.7
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000068
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9600.64001
.ends PFL2512-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL2512-472_freq port1 port2 PARAMS: Cpar=0.19pF Ind=5uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.77
+ C= {Cpar}
+ K1=0.0001
+ K2=1.1
+ K3= {Ind}
+ K4=0.09
+ K5=0.00000299
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13825.2524
.ends PFL2512-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL2512-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL2512-472_imp port1 port2 PARAMS: Cpar=0.169pF Ind=5uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.77
+ C= {Cpar}
+ K1=0.0001
+ K2=1.1
+ K3= {Ind}
+ K4=0.09
+ K5=0.00000299
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13825.2524
.ends PFL2512-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
